US06693197B2
Preparation of [(2R)-8-Methyl-2,3-Dihydro[1,4]Dioxino[2,3-f]Quinolin-2-yl]Methyl 4-Bromobenzenesulfonate
A solution of [(2S)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]-methanol (4.0 g, 17.3 mmol), brosyl chloride (4.86 g, 19.0 mmol), dimethylamino pyridine (20 mg, 0.16 mmol) and triethylamine (3.62 mL, 25.8 mmol) in toluene (40 mL) was stirred at 60° C. for 6 h. The reaction mixture was cooled to room temperature then water (20 mL) was added. After 30 min, the two layers were separated. The organic layer was extracted with 8% NaHCO3 (20 mL) and H2O (20 mL), dried over Na2SO4, filtered and concentrated in vacuo. The solid obtained was dissolved in isopropyl alcohol (50 mL) and toluene (10 mL) at 80° C., cooled to room temperature over 1 h then filtered, washed with (5:1) IPA: toluene (2×5 mL) and dried in a vacuum oven to give 5.99 g (76.9%) of the title compound as an off-white solid.

reactant | [(2S)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]-methanol | 17.3 mmol, 4.0 g | CC1=NC2=CC=C3C(=C2C=C1)O[C@H](CO3)CO | C13H13NO3
reactant | brosyl chloride | 19.0 mmol, 4.86 g | S(=O)(=O)(C1=CC=C(Br)C=C1)Cl | C6H4BrClO2S
reactant | triethylamine | 25.8 mmol, 3.62 mL | C(C)N(CC)CC | C6H15N
reactant | water | 20 mL | O | H2O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | isopropyl alcohol | 50 mL | C(C)(C)O | C3H8O
catalyst | dimethylamino pyridine | 0.16 mmol, 20 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | [(2R)-8-Methyl-2,3-Dihydro[1,4]Dioxino[2,3-f]Quinolin-2-yl]Methyl 4-Bromobenzenesulfonate | 5.99 g, 76.9% | BrC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C19H16BrNO5S
